*****************************************************************
* NXP BUK9K35-60E
*
* Polarity N-Channel
* Ratings 60V/3.500000E-002OHMS/40A
*
* Date Created Thu Jul 05 00:31:42 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9K35-60E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0241507794143938 TC=0.00470041445476593,1.47694891899057E-05
RBD 9 4 0.00347178080948662 TC=0.00470041445476593,1.47694891899057E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 7.6e-10
RG 1 2 4.27663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	481.768
+ -16	481.158
+ -10	479.028
+ -5	473.687
+ -4	470.935
+ -3	464.231
+ -2	677.385
+ -1	435.558
+ -0.5	277.339
+ -0.2	184.595
+ -0.1	169.074
+ 0	161.031
+ 0.1	148.955
+ 0.2	139.509
+ 0.5	122.288
+ 1	105.352
+ 2	85.367
+ 3	76.345
+ 4	72.04
+ 5	69.526
+ 6	67.678
+ 8	65.059
+ 10	63.073
+ 12	61.367
+ 15	59.155



.MODEL MINT NMOS(Vto=2.02943164107264 Kp=5.707415e+001 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.02157235378936e-12
+ N=1 M=0.61 VJ=0.63 Fc=0.5 Cjo=3.02847e-10 Tt=1.76e-08)

.ENDS
